US09403798B2
tert-Butyl 4-(6-chloro-4-oxo-4,5-dihydro-1,3,5-triazin-2-yl)piperazine-1-carboxylate
tert-Butyl 4-(4,6-dichloro-1,3,5-triazin-2-yl)piperazine-1-carboxylate (14.9 g, 44.5 mmol) synthesized in Reference Synthesis Example 5 and 1 M sodium hydroxide aqueous solution (111 mL, 111 mmol) were used to obtain the title compound (14.2 g, quantitative) by synthesis in a similar manner to Reference Synthesis Example 2.

reactant | tert-Butyl 4-(4,6-dichloro-1,3,5-triazin-2-yl)piperazine-1-carboxylate | 44.5 mmol, 14.9 g | ClC1=NC(=NC(=N1)Cl)N1CCN(CC1)C(=O)OC(C)(C)C | C12H17Cl2N5O2
reactant | sodium hydroxide | 111 mmol, 1 M, 111 mL | [OH-].[Na+]
product | tert-Butyl 4-(6-chloro-4-oxo-4,5-dihydro-1,3,5-triazin-2-yl)piperazine-1-carboxylate | 14.2 g | ClC=1NC(N=C(N1)N1CCN(CC1)C(=O)OC(C)(C)C)=O | C12H18ClN5O3
